US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.58 g, 3.81 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, 4-nitrophenyl-N-cyclopropylcarbamate (0.41 g, 1.85 mmol) was added. The mixture was stirred at room temperature for 17 hours. The mixture was filtered and the solid was recrystallized from methanol to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(cyclopropylamino)carboxamide (0.53 g, 77%) as a white solid: mp 245–247° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 7.87–7.69 (m, 3H), 6.58 (t, J=5.7 Hz, 1H), 6.45 (d, J=2.2 Hz, 1H)5.19–5.11 (dd, J=5.4 and 12.5 Hz, 1H), 4.65 (d, J=6.1 Hz, 2H), 2.96–2.83 (m, 1H), 2.64–2.40 (m, 3H), 2.08–2.04 (m, 1H), 0.62–0.55 (m, 2H), 0.40–0.34 (m, 2H); 13C NMR (DMSO-d6) δ 172.75, 169.82, 167.63, 167.04, 158.69, 141.11, 134.61, 133.26, 131.49, 126.94, 121.60, 48.83, 30.93, 22.37, 21.97, 6.59; Anal. Calcd. For C18H18N4O5: C, 58.37; H, 4.90; N, 15.13. Found: C, 58.26; H, 4.82; N, 14.85.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 3.81 mmol, 0.58 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 4-nitrophenyl-N-cyclopropylcarbamate | 1.85 mmol, 0.41 g | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C1CC1
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(cyclopropylamino)carboxamide | 0.53 g, 77% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)NC1CC1)=O)=O | C18H18N4O5
